US07358376B2
2-[(Aminothiocarbonyl)amino-5-phenyl-3-thiophenecarboxamide
A solution of 2-amino-5-phenyl-3-thiophenecarboxamide (1.09 g, 5 mmol) and trimethylsilyl isothiocyanate (0.85 ml, 6 mmol) in N,N-dimethylacetamide was stirred at 75° C. for 7 days. N,N-Dimethylformamide was added until solution. The solvent was removed and the resulting slurry was chromatographed on silica gel eluting with isohexane followed by methylene chloride and diethyl ether to give the product as a yellow solid (0.49 g, 35%).

reactant | 2-amino-5-phenyl-3-thiophenecarboxamide | 5 mmol, 1.09 g | NC=1SC(=CC1C(=O)N)C1=CC=CC=C1 | C11H10N2OS
reactant | trimethylsilyl isothiocyanate | 6 mmol, 0.85 ml | C[Si](C)(C)N=C=S | C4H9NSSi
reactant | N,N-Dimethylformamide | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | (Aminothiocarbonyl)amino-5-phenyl-3-thiophenecarboxamide | 0.49 g, 35% | NC(=S)NC=1SC(=CC1C(=O)N)C1=CC=CC=C1 | C12H11N3OS2
